US06951879B2
In analogy to example 14.1, Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester and 2-[Ethyl-(1-ethynyl-cyclohexyl)-amino]-ethanol were converted to yield 2-(Ethyl-{1-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-ylethynyl]-cydohexyl}-amino)-ethanol as brown oil, MS: 473.3 (MH+).

reactant | Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H7F6NO3S2
reactant | 2-[Ethyl-(1-ethynyl-cyclohexyl)-amino]-ethanol | C(C)N(CCO)C1(CCCCC1)C#C | C12H21NO
product | 2-(Ethyl-{1-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-ylethynyl]-cydohexyl}-amino)-ethanol | C(C)N(CCO)C1(CCCCC1)C#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C26H27F3N2OS
